US09034866B2
Synthesis of 10-bromo-3-(2-chlorobenzyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide
A solution of methyl 10-bromo-3-iodo-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate (150 mg, 0.33 mmol) in dry dimethylacetamide (DMA, 1.0 mL) was sparged with nitrogen gas and treated with PdCl2-[P(o-Tol)3]2 (27 mg, 0.033 mmol). A degassed solution of 2-chlorobenzylzinc bromide (0.61 M, 0.96 mL, 0.59 mmol) was added over 5 min dropwise. The flask was sealed under nitrogen and heated at 50° C. An additional 0.5 mL, of the zinc reagent was added under nitrogen sparge. After 30 min, LCMS indicated complete consumption. The mixture was diluted with ammonium chloride and extracted with ethyl acetate. The combined organics were washed with brine, dried over sodium sulfate and concentrated by rotoevaporation. The crude residue was dissolved in DMF (2 mL) and treated with formamide (1 mL) then sodium methoxide (0.5 mL, 25 wt % in methanol). After 20 min at 50° C., complete conversion to the amide was evident by LCMS. The mixture was diluted with water and extracted with ethyl acetate. The combined organics were washed with brine, dried over sodium sulfate and concentrated by rotoevaporation. The amide was used in subsequent steps without further purification.

reactant | methyl 10-bromo-3-iodo-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | 0.33 mmol, 150 mg | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)OC)I)C1 | C15H12BrIN2O2
reactant | 2-chlorobenzylzinc bromide | 0.59 mmol, 0.61 M, 0.96 mL | [Br-].ClC1=C(C[Zn+])C=CC=C1
reactant | dimethylacetamide | 1.0 mL | CC(=O)N(C)C | C4H9NO
catalyst | zinc | [Zn] | Zn
product | 10-bromo-3-(2-chlorobenzyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)CC3=C(C=CC=C3)Cl)C1 | C21H17BrClN3O
